US06555552B2
(1R*,2R*,5S*,6R*)-2-Benzylamino-8-benzyl-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octane
(1R*,5S*,6R*)-8-Benzyl-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octan-2-one (Description 17; 5.0 g, 12.8 mmol), p-toluenesulfonic acid monohydrate (25 mg) and benzylamine (2.1 g, 20 mmol) in toluene (50mL) was heated at reflux under Dean Stark conditions for 24 hours, then cooled and the solvent removed in vacuo. The residue was dissolved in methanol (100 mL) and sodium cyanoborohydride (900 mg, 14 mmol) added. The solution formed was stirred at room temperature for 2 hours then concentrated to approximately ¼ volume. Water (500 mL) was added and the suspension formed was extracted with ethyl acetate (2×500 mL). The extracts were dried (MgSO4) and concentrated, before the residue was purified by silica chromatography to give the title compound (3.87 g, 8 mmol) as a gum.

reactant | (1R*,5S*,6R*)-8-Benzyl-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octan-2-one | 12.8 mmol, 5.0 g | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@@H](C2)C(=O)OC(C)(C)C)=O)C2=CC=CC=C2 | C25H29NO3
reactant | benzylamine | 20 mmol, 2.1 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 14 mmol, 900 mg | C(#N)[BH3-].[Na+]
solvent | toluene | 50mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 25 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (1R*,2R*,5S*,6R*)-2-Benzylamino-8-benzyl-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octane | 8 mmol, 3.87 g | C(C1=CC=CC=C1)N[C@H]1[C@@]2(C[C@H]([C@H](CC1)N2CC2=CC=CC=C2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C32H38N2O2
